US08563459B2
Preparation of an Exemplary Catalyst Precursor (N-Methyl-N′-(3-trimethoxysilylpropyl)imidazolium Iodide)
N-Methylimidazole (156.8 g; 1.91 mol) and 3-iodopropyltrimethoxysilane (569.8 g; 1.96 mol) were charged to a 1 L, 3-necked flask to form a reaction mixture. The reaction mixture was heated to 114° C. for eight hours during which time the color of the mixture changed from pale yellow to green and then to black. The crude reaction product was washed twice with 80 mL of toluene (2×40 mL). The resulting black oily liquid of N-methyl-N′-(3-trimethoxysilylpropyl) imidazolium iodide was dissolved in 286 g of methylene chloride and maintained as a solution.

reactant | N-Methylimidazole | 1.91 mol, 156.8 g | CN1C=NC=C1 | C4H6N2
reactant | 3-iodopropyltrimethoxysilane | 1.96 mol, 569.8 g | ICCC[Si](OC)(OC)OC | C6H15IO3Si
product | N-Methyl-N′-(3-trimethoxysilylpropyl)imidazolium Iodide | [I-].C[N+]1=CN(C=C1)CCC[Si](OC)(OC)OC | InChI=1S/C10H21N2O3Si.HI/c1-11-7-8-12(10-11)6-5-9-16(13-2,14-3)15-4;/h7-8,10H,5-6,9H2,1-4H3;1H/q+1;/p-1
